US05661100
In a reaction flask with a thermometer and a stirrer, 25 g of p-nitrobenzenesulfonamide, 18 g of benzoylchloride, 1 g of copper powder, and 100 g of toluene were charged and refluxed until evolution of hydrogen chloride gas was completely ended. The reaction mixture was then cooled to room temperature to precipitate a crystal, which was filtered. The crystal was dissolved in an aqueous sodium carbonate solution and filtered. The filtrate was neutralized with hydrochloric acid to precipitate a crystal. The crystal was filtered to obtain 30.6 g of N-(4-nitrobenzenesulfonyl)benzamide.

reactant | p-nitrobenzenesulfonamide | 25 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | benzoylchloride | 18 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrogen chloride | Cl | ClH
catalyst | copper | 1 g | [Cu] | Cu
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | N-(4-nitrobenzenesulfonyl)benzamide | 30.6 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC(C1=CC=CC=C1)=O | C13H10N2O5S
